US07601716B2
1-(2,5-Dichlorobenzyl)-7-[6-(4-methylpiperazin-1-yl)pyridin-3-yl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine
1-(2,5-Dichlorobenzyl)-7-iodo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine (94 mg) was coupled to 1-methyl-4-[5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)pyridin-2-yl]piperazine as in General Procedure 4B to give the title compound as a brown solid (50% yield). LCMS: m/z=468.97 (M+H+), 1H-NMR (CDCl3, 400 MHz) δ 2.33 (3H, s), 2.51 (4H, t, J=5.1 Hz), 3.48 (2H, m), 3.55 (4H, t, J=5.1 Hz), 3.64 (2H, t, J=4.7 Hz), 4.46 (2H, s), 5.20 (1H, bs), 6.52 (1H, d, J=1.5 Hz), 6.65 (1H, d, J=8.8 Hz), 7.19 (1H, dd, J=8.5, 2.4 Hz), 7.26 (1H, d, J=2.3 Hz), 7.33 (1H, d, J=8.3 Hz), 7.52 (1H, dd, J=8.6, 2.5 Hz), 7.62 (1H, d, J=1.5 Hz), 8.20 (1H, d, J=2.5 Hz).

reactant | 1-(2,5-Dichlorobenzyl)-7-iodo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine | 94 mg | ClC1=C(CN2C3=C(NCC2)N=CC(=C3)I)C=C(C=C1)Cl | C14H12Cl2IN3
reactant | 1-methyl-4-[5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)pyridin-2-yl]piperazine | CN1CCN(CC1)C1=NC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C16H26BN3O2
product | 1-(2,5-Dichlorobenzyl)-7-[6-(4-methylpiperazin-1-yl)pyridin-3-yl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine | 50% yield | ClC1=C(CN2C3=C(NCC2)N=CC(=C3)C=3C=NC(=CC3)N3CCN(CC3)C)C=C(C=C1)Cl | C24H26Cl2N6
